US07553854B2
Step 4. 4-[2-((1S,2R)-2-Hydroxy-indan-1-ylamino)-benzooxazol-6-yloxy]-pyridine-2-carboxylic acid methylamide
A solution of 4-(2-(methylsulfinyl)benzo[d]oxazol-6-yloxy)-N-methylpyridine-2-carboxamide (17 mg, 0.05 mmol, 1.0 eq) and (1S,2R)-1-amino-2,3-dihydro-1H-inden-2-ol (30 mg, 0.2 mml, 4.0 eq) in 1 mL of N,N-dimethylacetamide was heated in the microwave at 90° C. for 600 seconds. The crude product was purified by reverse phase prep HPLC to give the title compound. MH==417.0.

reactant | 4-(2-(methylsulfinyl)benzo[d]oxazol-6-yloxy)-N-methylpyridine-2-carboxamide | 0.05 mmol, 17 mg, 1.0 eq | CS(=O)C=1OC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C15H13N3O4S
reactant | (1S,2R)-1-amino-2,3-dihydro-1H-inden-2-ol | 30 mg, 4.0 eq | N[C@@H]1[C@@H](CC2=CC=CC=C12)O | C9H11NO
solvent | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
product | 4-[2-((1S,2R)-2-Hydroxy-indan-1-ylamino)-benzooxazol-6-yloxy]-pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(O2)N[C@@H]2[C@@H](CC3=CC=CC=C23)O)C=C1 | C23H20N4O4
